US04652304
2-(Azetidin-1-ylsulfonyl)benzenesulfonamide
In a 1-l flask was placed 9.8 g. of 2-(azetidin-1-ylsulfonyl)benzenesulfonyl fluoride and 500 ml of THF. Then 9 ml of ammonia was added and the mixture was refluxed for two days. Four 25 ml portions of liquid ammonia were then added to the refluxing solution over a 48 hour period. The reaction mixture was concentrated and the residue chromatographed on silica gel (dichloroethane). The desired product was collected to give 4.9 g of a solid m.p. 121°-123° C.

reactant | 2-(azetidin-1-ylsulfonyl)benzenesulfonyl fluoride | N1(CCC1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)F | C9H10FNO4S2
reactant | ammonia | 9 ml | N | H3N
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-(Azetidin-1-ylsulfonyl)benzenesulfonamide | 4.9 g | N1(CCC1)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C9H12N2O4S2
